* File: NAND2D2.cdl.pex
* Created: Mon Dec 22 20:47:18 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2D2%net14 3 17 18 32 33 39 44 45 50 56 57 62 68 69 74 80 81 86
+ 109 110 111 112 113 114 115 116 117 119 121 123
r113 133 135 0.413564
r114 130 133 0.00212629
r115 125 128 0.52811
r116 123 133 0.320546
r117 123 128 1.84026
r118 93 130 1.5625
r119 90 130 0.520833
r120 85 86 0.793634
r121 85 116 0.793634
r122 81 86 0.793634
r123 79 80 0.793634
r124 79 115 0.793634
r125 75 81 0.812477
r126 75 80 0.793634
r127 73 74 0.793634
r128 73 114 0.793634
r129 69 75 0.812477
r130 69 74 0.793634
r131 67 68 0.793634
r132 67 113 0.793634
r133 63 69 0.812477
r134 63 68 0.793634
r135 61 62 0.793634
r136 61 112 0.793634
r137 57 63 0.812477
r138 57 62 0.793634
r139 55 56 0.793634
r140 55 111 0.793634
r141 51 57 0.812477
r142 51 93 0.375771
r143 51 56 0.793634
r144 49 50 0.793634
r145 49 110 0.793634
r146 45 93 0.436706
r147 45 90 0.0914037
r148 45 50 0.793634
r149 43 44 0.793634
r150 43 109 0.793634
r151 39 90 0.721073
r152 39 44 0.793634
r153 33 121 35.8101
r154 32 33 35.8101
r155 29 32 35.8101
r156 28 135 1.5625
r157 26 135 0.520833
r158 26 28 13.9095
r159 24 26 9.04115
r160 23 29 7.39434
r161 23 28 3.79835
r162 18 119 35.8101
r163 17 18 35.8101
r164 14 24 7.39434
r165 14 17 35.8101
r166 12 128 1.5625
r167 10 125 0.520833
r168 10 12 16.9695
r169 8 38 7.6338
r170 8 10 2.93704
r171 3 38 0.0725775
r172 3 117 26.7597
.ends

.subckt PM_NAND2D2%VSS 1 29 30 38 39 47 48 56 57 95 96 97 98 99 100 102 104 106
r39 115 117 0.57564
r40 113 115 1.30183
r41 109 112 0.57564
r42 107 113 0.247405
r43 107 112 0.294462
r44 91 112 1.5625
r45 88 109 0.520833
r46 81 91 0.112914
r47 81 88 0.462726
r48 81 96 1.3829
r49 77 88 0.422874
r50 77 95 1.3829
r51 68 99 1.83336
r52 66 117 1.5625
r53 66 115 0.520833
r54 66 68 12.1185
r55 64 66 2.47503
r56 64 98 0.916678
r57 64 98 8.95818
r58 57 106 16.477
r59 56 57 16.4761
r60 53 76 1.43649
r61 53 56 16.4761
r62 52 75 5.52744
r63 51 76 5.52744
r64 51 52 21.7558
r65 48 104 16.477
r66 47 48 16.4761
r67 44 75 1.43649
r68 44 47 16.4761
r69 43 74 5.52744
r70 42 75 5.52744
r71 42 43 21.7558
r72 39 102 16.477
r73 38 39 16.4761
r74 35 74 1.43649
r75 35 38 16.4761
r76 33 74 5.52744
r77 33 34 21.7558
r78 30 100 16.477
r79 29 30 16.4761
r80 26 29 16.4761
r81 25 72 5.52744
r82 24 25 21.7558
r83 21 68 6.23882
r84 21 99 28.0215
r85 20 72 1.43649
r86 20 99 33.9391
r87 16 64 8.95818
r88 16 98 9.39852
r89 12 98 6.84923
r90 10 12 7.48864
r91 10 11 43.5117
r92 6 11 7.48864
r93 6 97 40.7269
r94 1 26 1.43649
r95 1 24 5.52744
r96 1 34 5.52744
.ends

.subckt PM_NAND2D2%OUT 1 5 6 15 20 22 23 29 31 36 37 38 43 44 54 59 60 65 70 71
+ 73 89 91 93 95 97 98 101 102
r103 87 88 3.40999
r104 83 98 2.60416
r105 76 77 11.1011
r106 74 76 17.7297
r107 73 88 4.68674
r108 72 84 2.95114
r109 72 73 21.5383
r110 70 71 16.6793
r111 70 102 16.6793
r112 65 84 2.95114
r113 65 71 16.6798
r114 60 101 36.0137
r115 59 60 36.0129
r116 56 87 4.68674
r117 56 59 36.0129
r118 55 83 13.159
r119 54 84 4.27984
r120 54 55 44.3109
r121 44 97 36.0137
r122 43 44 36.0129
r123 40 85 4.68674
r124 40 43 36.0129
r125 39 80 9.53916
r126 38 83 13.159
r127 38 39 44.3997
r128 36 37 16.6793
r129 36 95 16.6793
r130 31 80 1.12241
r131 31 37 16.6798
r132 30 93 10.5632
r133 29 80 9.53916
r134 29 30 44.3109
r135 22 23 56.7543
r136 22 77 56.7543
r137 20 85 10.8674
r138 20 23 56.7543
r139 15 91 36.0137
r140 14 15 36.0129
r141 11 76 5.01931
r142 11 14 36.0129
r143 6 89 36.0137
r144 5 6 36.0129
r145 2 74 5.01931
r146 2 5 36.0129
r147 1 87 9.10889
r148 1 85 9.57601
.ends

.subckt PM_NAND2D2%VDD 1 4 11 14 21 22 25 32 33 36 43 44 48 55 56 59 66 67 70 77
+ 87 88 90 92 94 96 98
r87 76 77 52.214
r88 76 98 52.214
r89 70 86 3.03423
r90 70 77 52.214
r91 69 85 5.52744
r92 68 86 3.89768
r93 68 69 21.7558
r94 66 67 34.8093
r95 66 96 34.8093
r96 59 85 1.43649
r97 59 67 34.8093
r98 58 84 5.52744
r99 57 85 5.52744
r100 57 58 21.7558
r101 55 56 34.8093
r102 55 94 34.8093
r103 48 84 1.43649
r104 48 56 34.8093
r105 46 83 5.52744
r106 45 84 5.52744
r107 43 44 34.8093
r108 43 92 34.8093
r109 36 83 1.43649
r110 36 44 34.8093
r111 35 82 5.52744
r112 34 83 5.52744
r113 34 35 21.7558
r114 32 33 34.8093
r115 32 90 34.8093
r116 25 82 1.43649
r117 25 33 34.8093
r118 24 81 5.52744
r119 23 82 5.52744
r120 23 24 21.7558
r121 21 22 34.8093
r122 21 88 34.8093
r123 14 81 1.43649
r124 14 22 34.8093
r125 13 80 3.89768
r126 12 81 5.52744
r127 12 13 21.7558
r128 10 11 52.214
r129 10 87 52.214
r130 4 80 3.03423
r131 4 11 52.214
r132 1 45 19.5802
r133 1 46 2.17558
.ends

.subckt PM_NAND2D2%IN1 19 22 25 26 28 29 30 33 34 36 42 44 45 46 49 50 52 58 60
+ 61 62 65 66 68 90 91 92 93 94 95 96
r87 104 106 0.2952
r88 98 101 0.2952
r89 96 104 0.15498
r90 96 101 0.14022
r91 67 68 1.22053
r92 67 95 1.22053
r93 66 95 1.22056
r94 65 66 1.22053
r95 62 68 1.22056
r96 61 65 1.22053
r97 59 60 1.22053
r98 59 94 1.22053
r99 58 94 1.22056
r100 57 58 1.22053
r101 54 62 1.1808
r102 54 60 1.22056
r103 53 61 1.1808
r104 53 57 1.22053
r105 51 52 1.22053
r106 51 93 1.22053
r107 50 93 1.22056
r108 49 50 1.22053
r109 46 54 1.1808
r110 46 52 1.22056
r111 45 53 1.1808
r112 45 49 1.22053
r113 43 44 1.22053
r114 43 92 1.22053
r115 42 92 1.22056
r116 41 42 1.22053
r117 38 46 1.1808
r118 38 44 1.22056
r119 37 45 1.1808
r120 37 41 1.22053
r121 35 36 1.22053
r122 35 91 1.22053
r123 34 91 1.22056
r124 33 34 1.22053
r125 30 38 1.1808
r126 30 36 1.22056
r127 29 37 1.1808
r128 29 33 1.22053
r129 27 28 1.22053
r130 27 90 1.22053
r131 26 90 1.22056
r132 25 26 1.22053
r133 22 30 1.1808
r134 22 28 1.22056
r135 21 29 1.1808
r136 21 25 1.22053
r137 19 22 0.38376
r138 19 20 0.79704
r139 17 21 0.38376
r140 17 18 0.79704
r141 16 69 1.82044
r142 15 16 1.82038
r143 13 18 0.247405
r144 13 15 1.82038
r145 11 12 0.77735
r146 10 106 1
r147 10 11 0.77735
r148 8 104 1
r149 8 10 0.2952
r150 6 101 1
r151 6 8 0.2952
r152 4 98 1
r153 4 6 0.2952
r154 2 20 0.284958
r155 2 12 0.77738
r156 1 69 0.332026
r157 1 4 0.17712
.ends

.subckt PM_NAND2D2%IN2 2 5 6 8 9 10 13 14 16 22 24 25 26 29 30 32 38 40 42 45 46
+ 48 50 51 52 90 91 92 93 94 95 96
r89 104 106 0.2952
r90 98 101 0.2952
r91 96 104 0.15498
r92 96 101 0.14022
r93 67 68 0.77735
r94 66 106 1
r95 66 67 0.77735
r96 64 104 1
r97 64 66 0.2952
r98 62 101 1
r99 62 64 0.2952
r100 60 98 1
r101 60 62 0.2952
r102 58 68 0.77738
r103 57 83 0.332026
r104 57 60 0.17712
r105 56 83 1.82044
r106 55 56 1.82038
r107 53 55 1.82038
r108 51 58 0.284958
r109 51 52 0.79704
r110 49 53 0.247405
r111 49 50 0.79704
r112 47 48 1.22053
r113 47 95 1.22053
r114 46 95 1.22056
r115 45 46 1.22053
r116 42 52 0.38376
r117 42 48 1.22056
r118 41 50 0.38376
r119 41 45 1.22053
r120 39 40 1.22053
r121 39 94 1.22053
r122 38 94 1.22056
r123 37 38 1.22053
r124 34 42 1.1808
r125 34 40 1.22056
r126 33 41 1.1808
r127 33 37 1.22053
r128 31 32 1.22053
r129 31 93 1.22053
r130 30 93 1.22056
r131 29 30 1.22053
r132 26 34 1.1808
r133 26 32 1.22056
r134 25 33 1.1808
r135 25 29 1.22053
r136 23 24 1.22053
r137 23 92 1.22053
r138 22 92 1.22056
r139 21 22 1.22053
r140 18 26 1.1808
r141 18 24 1.22056
r142 17 25 1.1808
r143 17 21 1.22053
r144 15 16 1.22053
r145 15 91 1.22053
r146 14 91 1.22056
r147 13 14 1.22053
r148 10 18 1.1808
r149 10 16 1.22056
r150 9 17 1.1808
r151 9 13 1.22053
r152 7 8 1.22053
r153 7 90 1.22053
r154 6 90 1.22056
r155 5 6 1.22053
r156 2 10 1.1808
r157 2 8 1.22056
r158 1 9 1.1808
r159 1 5 1.22053
.ends

