* File: NAND2D1.cdl.pex
* Created: Mon Dec 22 20:35:44 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2D1%net14 14 15 27 28 37 42 48 49 54 60 70 71 72 73 74 75 77 79
r72 89 91 0.413564
r73 86 89 0.00212629
r74 81 84 0.52811
r75 79 89 0.320546
r76 79 84 1.84026
r77 59 60 0.719822
r78 59 73 0.719822
r79 55 60 0.719857
r80 53 54 0.719822
r81 53 72 0.719822
r82 49 55 0.812477
r83 49 54 0.719857
r84 47 48 0.719822
r85 47 71 0.719822
r86 43 49 0.812477
r87 43 48 0.719857
r88 41 42 0.719822
r89 41 70 0.719822
r90 37 43 0.812477
r91 37 42 0.719857
r92 36 86 1.5625
r93 33 86 0.520833
r94 33 36 0.52811
r95 31 37 0.264055
r96 31 36 0.656075
r97 28 77 21.3068
r98 27 28 21.3059
r99 24 27 21.3059
r100 23 91 1.5625
r101 21 91 0.520833
r102 21 23 13.9095
r103 19 21 9.04115
r104 18 24 7.39434
r105 18 23 3.79835
r106 15 75 21.3068
r107 14 15 21.3059
r108 11 19 7.39434
r109 11 14 21.3059
r110 9 84 1.5625
r111 7 81 0.520833
r112 7 9 16.9695
r113 5 7 2.93704
r114 1 5 7.78998
r115 1 74 40.1395
.ends

.subckt PM_NAND2D1%VSS 1 18 24 25 31 32 56 57 58 59 61
r20 68 70 0.406515
r21 64 67 0.250278
r22 62 68 0.263356
r23 62 67 0.2214
r24 53 67 0.223214
r25 51 64 0.195312
r26 51 53 0.250278
r27 48 51 0.0962609
r28 44 48 0.147941
r29 44 56 1.58556
r30 39 57 3.58814
r31 32 61 17.0131
r32 31 32 17.0131
r33 25 59 17.0131
r34 24 25 17.0131
r35 21 31 17.0131
r36 21 24 17.0131
r37 21 58 32.7208
r38 18 58 7.1293
r39 18 58 25.1933
r40 15 21 10.1625
r41 13 70 0.223214
r42 11 70 0.195312
r43 11 13 4.03077
r44 11 39 7.34841
r45 8 58 2.54013
r46 8 13 12.1388
r47 1 15 4.24582
.ends

.subckt PM_NAND2D1%OUT 1 5 6 13 16 19 20 25 26 30 31 39 40 44 45 56 58 60 62 64
+ 66
r81 52 53 11.3098
r82 50 51 11.1011
r83 48 50 17.7297
r84 45 66 21.5096
r85 44 45 21.5091
r86 41 55 3.70269
r87 41 44 21.5091
r88 39 40 24.1055
r89 39 64 24.1055
r90 34 53 3.70269
r91 34 40 24.1055
r92 31 62 21.5096
r93 30 31 21.5091
r94 27 52 3.70269
r95 27 30 21.5091
r96 25 26 24.1055
r97 25 60 24.1055
r98 20 52 10.5449
r99 20 26 24.1055
r100 18 19 46.3221
r101 18 51 46.3221
r102 16 20 10.2459
r103 16 19 46.3229
r104 13 58 21.5096
r105 12 13 21.5091
r106 9 50 5.01931
r107 9 12 21.5091
r108 6 56 21.5096
r109 5 6 21.5091
r110 2 48 5.01931
r111 2 5 21.5091
r112 1 55 1.91228
r113 1 53 8.63258
.ends

.subckt PM_NAND2D1%VDD 1 4 9 12 17 18 21 26 27 30 35 36 39 44 45 48 53 54 57 62
+ 72 73 75 77 79 81 83
r87 61 62 30.4577
r88 61 83 30.4577
r89 57 71 3.03423
r90 57 62 30.459
r91 56 70 5.52744
r92 55 71 3.89768
r93 55 56 21.7558
r94 53 54 20.3052
r95 53 81 20.3052
r96 48 70 1.43649
r97 48 54 20.306
r98 47 69 5.52744
r99 46 70 5.52744
r100 46 47 21.7558
r101 44 45 20.3052
r102 44 79 20.3052
r103 39 69 1.43649
r104 39 45 20.306
r105 37 69 5.52744
r106 37 38 21.7558
r107 35 36 20.3052
r108 35 77 20.3052
r109 30 36 20.306
r110 29 67 5.52744
r111 28 29 21.7558
r112 26 27 20.3052
r113 26 75 20.3052
r114 21 67 1.43649
r115 21 27 20.306
r116 20 66 5.52744
r117 19 67 5.52744
r118 19 20 21.7558
r119 17 18 20.3052
r120 17 73 20.3052
r121 12 66 1.43649
r122 12 18 20.306
r123 11 65 3.89768
r124 10 66 5.52744
r125 10 11 21.7558
r126 8 9 30.4577
r127 8 72 30.4577
r128 4 65 3.03423
r129 4 9 30.459
r130 1 30 1.43649
r131 1 28 5.52744
r132 1 38 5.52744
.ends

.subckt PM_NAND2D1%IN1 15 18 21 22 24 25 26 29 30 32 38 40 41 42 45 46 48 54 56
+ 57 58 61 62 64 85 86 87 88 89 90 91
r87 99 101 0.2952
r88 93 96 0.2952
r89 91 99 0.15498
r90 91 96 0.14022
r91 63 64 0.65284
r92 63 90 0.65284
r93 62 90 0.652857
r94 61 62 0.65284
r95 58 64 0.652857
r96 57 61 0.65284
r97 55 56 0.65284
r98 55 89 0.65284
r99 54 89 0.652857
r100 53 54 0.65284
r101 50 58 1.1808
r102 50 56 0.652857
r103 49 57 1.1808
r104 49 53 0.65284
r105 47 48 0.65284
r106 47 88 0.65284
r107 46 88 0.652857
r108 45 46 0.65284
r109 42 50 1.1808
r110 42 48 0.652857
r111 41 49 1.1808
r112 41 45 0.65284
r113 39 40 0.65284
r114 39 87 0.65284
r115 38 87 0.652857
r116 37 38 0.65284
r117 34 42 1.1808
r118 34 40 0.652857
r119 33 41 1.1808
r120 33 37 0.65284
r121 31 32 0.65284
r122 31 86 0.65284
r123 30 86 0.652857
r124 29 30 0.65284
r125 26 34 1.1808
r126 26 32 0.652857
r127 25 33 1.1808
r128 25 29 0.65284
r129 23 24 0.65284
r130 23 85 0.65284
r131 22 85 0.652857
r132 21 22 0.65284
r133 18 26 1.1808
r134 18 24 0.652857
r135 17 25 1.1808
r136 17 21 0.65284
r137 15 18 0.38376
r138 15 16 0.79704
r139 13 17 0.38376
r140 13 14 0.79704
r141 11 12 0.77735
r142 10 101 1
r143 10 11 0.77735
r144 8 99 1
r145 8 10 0.2952
r146 6 96 1
r147 6 8 0.2952
r148 4 93 1
r149 4 6 0.2952
r150 2 16 0.284958
r151 2 12 0.77738
r152 1 14 0.284958
r153 1 4 0.17712
.ends

.subckt PM_NAND2D1%IN2 2 5 6 8 9 10 13 14 16 22 24 25 26 29 30 32 38 40 42 45 46
+ 48 50 51 52 85 86 87 88 89 90 91
r89 99 101 0.2952
r90 93 96 0.2952
r91 91 99 0.15498
r92 91 96 0.14022
r93 63 64 0.77735
r94 62 101 1
r95 62 63 0.77735
r96 60 99 1
r97 60 62 0.2952
r98 58 96 1
r99 58 60 0.2952
r100 56 93 1
r101 56 58 0.2952
r102 54 64 0.77738
r103 53 56 0.17712
r104 51 54 0.284958
r105 51 52 0.79704
r106 49 53 0.284958
r107 49 50 0.79704
r108 47 48 0.65284
r109 47 90 0.65284
r110 46 90 0.652857
r111 45 46 0.65284
r112 42 52 0.38376
r113 42 48 0.652857
r114 41 50 0.38376
r115 41 45 0.65284
r116 39 40 0.65284
r117 39 89 0.65284
r118 38 89 0.652857
r119 37 38 0.65284
r120 34 42 1.1808
r121 34 40 0.652857
r122 33 41 1.1808
r123 33 37 0.65284
r124 31 32 0.65284
r125 31 88 0.65284
r126 30 88 0.652857
r127 29 30 0.65284
r128 26 34 1.1808
r129 26 32 0.652857
r130 25 33 1.1808
r131 25 29 0.65284
r132 23 24 0.65284
r133 23 87 0.65284
r134 22 87 0.652857
r135 21 22 0.65284
r136 18 26 1.1808
r137 18 24 0.652857
r138 17 25 1.1808
r139 17 21 0.65284
r140 15 16 0.65284
r141 15 86 0.65284
r142 14 86 0.652857
r143 13 14 0.65284
r144 10 18 1.1808
r145 10 16 0.652857
r146 9 17 1.1808
r147 9 13 0.65284
r148 7 8 0.65284
r149 7 85 0.65284
r150 6 85 0.652857
r151 5 6 0.65284
r152 2 10 1.1808
r153 2 8 0.652857
r154 1 9 1.1808
r155 1 5 0.65284
.ends

